US08293768B2
Synthesis of 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-(2-(pyrrolidin-1-yl)ethyl)thiazole-5-carboxamide
Following the procedure as describe in Example 8, making variations as required to replace benzylamine with 1-(2-aminoethyl)pyrrolidine to react with 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a white powder in 17% yield: mp 183-184° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 7.27-7.22 (m, 2H), 7.04-6.97 (m, 2H), 6.33 (br s, 1H), 4.43 (s, 2H), 4.07-4.01 (m, 2H), 3.47-3.32 (m, 4H), 2.64-2.50 (m, 9H), 1.85-1.70 (m, 4H); 13C NMR (75 MHz, CDCl3) δ 162.6, 162.5 (d, JC-F=245.2 Hz), 157.3, 155.4, 152.0, 131.4 (d, JC-F=3.0 Hz), 130.0 (d, JC-F=8.2 Hz), 118.3, 115.8 (d, JC-F=21.0 Hz), 54.3, 53.8, 47.2, 42.0, 41.6, 38.4, 23.5, 17.1; MS (ES+) m/z 432.4 (M+1).

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 1-(2-aminoethyl)pyrrolidine | NCCN1CCCC1 | C6H14N2
reactant | 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C15H14FN3O3S
product | 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-(2-(pyrrolidin-1-yl)ethyl)thiazole-5-carboxamide | 17% yield | FC1=CC=C(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)NCCN2CCCC2)=O)C=C1 | C21H26FN5O2S
